data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2546,2826,[CH3:17][O:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[N+:24]([CH3:25])[C-:26]([C:27](=[O:28])[O:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([O:18][CH3:17])=[O:20])([C:22]#[N:23])[N:24]([CH3:25])[C:26]2([C:27](=[O:28])[O:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,25.693472785726343,-37.871183889426646
1159,1260,[CH3:16][c-:17]1[c:18](=[O:19])[o:20][c:21]([C:22]#[N:23])[n+:24]1[CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6]([CH3:7])=[O:8])=[C:9]([C:10]([CH3:11])=[O:12])[C:13]([CH3:14])=[O:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[C:21]2([C:22]#[N:23])[O:20][C:18](=[O:19])[C:17]1([CH3:16])[N:24]2[CH3:25],water,298.15,22.84457292023176,7.551554174583098
1785,1976,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[O:16][C:13]3([C:11]([CH3:10])=[O:12])[C:14]#[N:15],water,298.15,4.814737591298637,-54.76161435142696
941,1021,[CH3:15][c-:16]1[c:17](=[O:18])[o:19][c:20]([C:21]#[N:22])[n+:23]1[CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:20]1([C:21]#[N:22])[O:19][C:17](=[O:18])[C:16]3([CH3:15])[N:23]1[CH3:24],water,298.15,17.249294918362104,-22.88088292678789
2263,2508,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[O+:17][C-:18]([C:19](=[O:20])[NH:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29](=[O:30])[O:31][CH3:32].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([F:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([C:19](=[O:20])[NH:21][CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:29](=[O:30])[O:31][CH3:32],water,298.15,15.965338291234165,-36.71712456990728
2654,2943,[CH3:1][CH:2]1[C:3]#[C:4][C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C:26](=[NH+:27][C-:28]([CH3:29])[C:30](=[O:31])[O:32][CH3:33])[C:34](=[O:35])[NH:36][CH3:37]>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]([CH3:29])([C:30](=[O:31])[O:32][CH3:33])[NH:27][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[C:34](=[O:35])[NH:36][CH3:37],water,298.15,18.688191516289933,-31.895768510421554
1421,1563,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17](=[O:18])[NH:19][CH3:20])[N+:21]([CH3:22])=[CH:23][C:24]#[N:25].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:23]([C:24]#[N:25])[N:21]([CH3:22])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,22.029666934077763,-16.824103461258687
1185,1289,[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[N:10]#[C:11][N-:12][NH+:13]=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]12[C:3]([CH3:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:12]([C:11]#[N:10])[NH:13][C:14]2([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,40.01179647632847,0.6660125456658282
626,686,[CH3:18][C-:19]([C:20]#[N:21])[N+:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:19]([CH3:18])([C:20]#[N:21])[N:22]=[N:23]3,water,298.15,22.114606011564064,-31.73990222415565
5085,5773,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[CH-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:21]([CH3:22])[C:14]2([C:12]([CH3:11])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,24.40751701759612,-8.412356977444404
